US06951879B2
3.0 g (6.846 mmol) Trifluoro-methanesulfonic acid 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl ester were suspended three times with toluene prior to the reaction, then dissolved in 25 ml THF and added to 240 mg (0.34 mmol) PdCl2(PPh3)2. To this suspension 0.67 ml (7.19 mmol) 4-pentyn-1-ol in 1 ml THF were added, followed by 54 mg (0.205 mmol) triphenylphosphine in 1 ml THF and 2.9 ml (20.54 mmol) triethylamine. The solution was stirred for 20 min at RT prior to the addition of 13 mg (0.07 mmol) CuI. The solution was heated to 50° C. overnight. Further 132 μl (1.4 mmol) 4-pentyn-1-ol in 0.8 ml THF were added in two portions and stirring at 50° C. was continued for 5 h and at RT over night. The reaction mixture was diluted with EtOAc and 1M KHSO4. The inorganic phase was extracted with EtOAc and the combined organic phases were washed with water and brine and dried over Na2SO4. Column chromatography with a gradient hexane:EtOAc 2:1 to 1:1 gave 1.83 g (72%) 5-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol as light yellow oil, MS: 371 (M, 1Br).

reactant | Trifluoro-methanesulfonic acid 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl ester | 6.846 mmol, 3.0 g | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F | C14H7BrF3NO3S2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 4-pentyn-1-ol | C(CCC#C)O | C5H8O
reactant | triethylamine | 20.54 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-pentyn-1-ol | 1.4 mmol, 132 μl | C(CCC#C)O | C5H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 0.8 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | KHSO4 | 1M | OS(=O)(=O)[O-].[K+]
catalyst | PdCl2(PPh3)2 | 0.34 mmol, 240 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.07 mmol, 13 mg | [Cu]I
catalyst | triphenylphosphine | 0.205 mmol, 54 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 5-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-pent-4-yn-1-ol | 1.83 g, 72% | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCCO | C18H14BrNOS
